US04927808
After 250 ml of hydrogen chloride-containing ethanol (7N HCl-EtOH) was added to a dehydrated ethanol suspension (750 ml) containing 50 g (about 185 mmol) of γ-L-glutamyl-L-cysteine monohydrate, the mixture was stirred at room temperature for 1 hour. Upon addition of hydrogen chloride, the suspension turned to a solution. The reaction solution was then poured into ether (7.5 l) which had been cooled to 0° C. beforehand and the mixture was kept stirring for 2 hours to make the crystals precipitate. Thus obtained product was separated by filtration to give 48.4 g (83%) of γ-L-glutamyl-L-cysteine ethyl ester hydrochloride salt.

reactant | hydrogen chloride | 250 ml | Cl | ClH
reactant | ethanol | 7N | C(C)O | C2H6O
reactant | ethanol | 750 ml | C(C)O | C2H6O
reactant | γ-L-glutamyl-L-cysteine monohydrate | about 185 mmol, 50 g | O.N[C@@H](CCC(=O)N[C@@H](CS)C(=O)O)C(=O)O
solvent | ether | 7.5 l | CCOCC | C4H10O
product | γ-L-glutamyl-L-cysteine ethyl ester hydrochloride salt | 48.4 g, 83% | Cl.C(C)OC([C@@H](NC(CC[C@H](N)C(=O)O)=O)CS)=O | InChI=1S/C10H18N2O5S.ClH/c1-2-17-10(16)7(5-18)12-8(13)4-3-6(11)9(14)15;/h6-7,18H,2-5,11H2,1H3,(H,12,13)(H,14,15);1H/t6-,7-;/m0./s1
